Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
=======================================================  
___ ADMISSION NOTE  
Date of admission:  ___, seen/examined at 1400  
=======================================================  
PCP:  Dr. ___      
HISTORY OF PRESENT ILLNESS:  
___ yo M anxiety, depression, ADHD, daily EtOH use, p/w acute 
onset abdominal pain x 1 day.  Pain started yesterday evening 
acutely, epigastric, pressure/ache in quality, severe, ___, 
with associated nausea and vomiting (non-bloody), worse with PO 
intake, non-radiating.  Denies fevers, chills.  Denies change in 
bowel movements.  No sick contacts, no new meds.  No previous 
episodes of similar.  EtOH intake is not inconsequential, but 
has been minimal.    
. 
In the ED, initial vs were: T 96.6 P ___ BP 142/94 R 20 O2 sat 
100% on RA. Labs were remarkable for AST/AKT 63/63, AlkPhos 107, 
T.bili 2, Lipase 668, and WBC 19.  Patient was given IVF NS x 
3L, Zofran 4mg IV x 2, Morphine 5mg IV x 2, Dilaudid 1mg IV x 1, 
GI cocktail x 1  Vitals on Transfer T 98, HR 92, BP 152/105, RR 
18, O2Sat 99% on RA.  With pain meds, pain has improved from 
___ -> ___.  Currently without nausea, only still with 
moderate abd pain.    
. 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies diarrhea or constipation. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. Ten point review of systems is 
otherwise negative.  
.
 
Past Medical History:
anxiety
borderline hypertension
fatty liver
insomnia
GERD
ADHD
neuropathy
depression

 
Social History:
___
Family History:
Denies FH of gallbladder, liver or pancreatic disease.
Father with "heart problems," mother healthy, 2 sisters and 2 
brothers total.  1 sister and 1 brother with RA.  + FH of 
multiple sclerosis

 
Physical Exam:
ADMIT PHYSICAL EXAM:  
Vitals: T: 98 BP: 160/100 P: 105 R: 22 O2: 98% on RA
Pain: ___  
General:  NAD, uncomfortable 
HEENT:  dry MM, anicteric
Lungs:  CTAB/L
CV:  RRR, no murmur
Abdomen:  obese, no rebound/guarding, +BS, TTP in epigastrium, 
negative ___
Ext:  no edema, WWP
Skin:  no rashes, no jaundice
Neuro:  AAOx3, fluent speech
Psych:  Anxious 

 
Pertinent Results:
Admit Labs:
===================
WBC 19K with left shift, no bands, otherwise H/H and plt# WNL
Chem-7 WNL
Lipase 688
AST/ALT 63/63
Alk Phos - WNL
T. Bili 2
.
UA unremarkable 
. 
MICRO:  none
. 
STUDIES:  
===================
PA/lat CXR (___) - (my read) no infiltrate, no effusions
.
RUQ US (___)
IMPRESSION: 
1.  No evidence of cholelithiasis or biliary duct dilation. 
2.  Echogenic liver, likely due to fatty infiltration; more 
severe forms of hepatic disease such as fibrosis or cirrhosis 
cannot be excluded on the basis of this exam. 
.
CXR PA/LAT (___)
FINDINGS:  PA and lateral views of the chest were provided.  The 
lungs appear clear, though volumes are low.  No free air below 
the right hemidiaphragm.  No effusion or pneumothorax is seen.  
Cardiomediastinal silhouette is normal.   
Bony structures are intact. 
IMPRESSION:  No acute findings in the chest. 
.
.
Discharge Labs:
==================

___ 06:55AM BLOOD WBC-7.8# RBC-3.99* Hgb-14.1 Hct-41.6 
MCV-104* MCH-35.4* MCHC-34.0 RDW-11.8 Plt ___
___ 06:55AM BLOOD Glucose-108* UreaN-6 Creat-0.8 Na-140 
K-4.0 Cl-100 HCO3-30 AnGap-14
___ 06:55AM BLOOD ALT-35 AST-36 AlkPhos-86 TotBili-2.0*
___ 06:55AM BLOOD Calcium-9.2 Phos-3.2 Mg-1.9 Cholest-132
___ 06:55AM BLOOD VitB12-544 Folate-9.3
___ 06:55AM BLOOD Triglyc-99 HDL-53 CHOL/HD-2.5 LDLcalc-___ yo M with ADHD, anxiety, depression, EtOH use, p/w acute 
onset abdominal pain and elevated lipase, most c/w acute 
alcoholic pancreatitis.
.
ACTIVE ISSUES:
.
# Pancreatitis, acute - overall, given his EtOH intake, most 
likely alcoholic in etiology.  Although he did have mild 
hyperbilirubinemia, the bilirubin level remained stable, and RUQ 
US did not show any gallstones or dilated bile ducts.  His 
calcium level and ___ levels were WNL.  None of his medications 
are new, and none are common precipitants of pancreatitis.  He 
was treated conservatively with IVF, bowel rest, IV pain 
medication, with resolution of his symptoms.  He was encouraged 
strongly to abstain from alcohol (see below).  
. 
# Leukocytosis - most likely from inflammatotion in setting of 
pancreatitis.  He did not have fever and his UA and CXR did not 
suggest infection.  Ultrasound did not show obstructed biliary 
ducts.  He was NOT given any antibiotics.  Leukocytosis resolved 
the day following admission.  
.
# Thrombocytopenia - he had mild thrombocytopenia of 126K, 
likely from marrow suppression from EtOH intake.  He did NOT 
receive any heparin products during this hospitalization.  
.
# Elevated LFTs (transaminitis and hyperbilirubinemia) - has 
elevated transaminases at baseline, and pt reports hx of fatty 
liver.  Transaminases most likely due to EtOH intake.  Elevated 
bilirubin may be stress / ___.  His transaminases 
downtrended to WNL, although bilirubin remained elevated at 2.  
Consider repeat LFT's at PCP ___.  No evidence of biliary 
obstruction on ultrasound.    
. 
# EtOH intake - significant EtOH consumption on daily basis, 
although no history of hospitalization or EtOH withdrawl/DT's, 
still with high risk for withdrawl.  He was placed on CIWA with 
PRN, but did not score to require Valium.  He remained on CIWA > 
72 hours without any BZD requirement.  He was placed on MVI, 
thiamine and folate during hospitalization.  ___ medical d/w him 
extensively the risks of EtOH intake in large volume, including 
recurrent pancreatitis and liver disease.  He was seen by Social 
Worker and provided with contact information for outpatient 
resources for EtOH addiction treatment.  
.
CHRONIC ISSUES:
.
# GERD - continued home H2 blocker
.
# ADHD - continued Adderall
.
# Depression/Anxiety - continue home psych meds (SSRI and BZD's)
.
TRANSITIONAL ISSUES:
1.  ___ with PCP
2.  consider repeat LFT's to assess for resolution of 
hyperbilurbinemia
3.  consider repeat CBC to assess for resolution of 
thrombocytopenia 
4.  outpatient resources for EtOH cessation
5.  PENDING STUDIES AT TIME OF DISCHARGE: NONE
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Adderall (dextroamphetamine-amphetamine) 20 mg oral bid 
2. Fluoxetine 40 mg PO DAILY 
3. ALPRAZolam 1 mg PO TID:PRN anxiety 
4. Ranitidine 300 mg PO DAILY 
5. Gabapentin 300 mg PO TID 
6. Lorazepam 1 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. Adderall (dextroamphetamine-amphetamine) 20 mg oral bid 
RX *dextroamphetamine-amphetamine [Adderall] 20 mg 1 tablet(s) 
by mouth twice daily Disp #*14 Tablet Refills:*0
2. ALPRAZolam 1 mg PO TID:PRN anxiety 
3. Fluoxetine 40 mg PO DAILY 
4. Gabapentin 300 mg PO TID 
5. Ranitidine 300 mg PO DAILY 
6. Lorazepam 1 mg PO HS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
EtOH Pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for abdominal pain, found to 
have elevated pancreas levels in your bloodwork, consistent with 
pancreatitis, which is most likely do to your alcohol intake.  
You will need to abstain from alcohol as much as possible.  
Ultrasound of your abdomen did not show any gallstones causing 
pancreatitis.  Your pancreatitis improved with bowel rest and 
supportive care.  You were seen by our social worker and 
provided information regarding alcohol addiction treatment 
resources.
.
Please take your medications as listed.
.
Please see your physicians as listed.
 
Followup Instructions:
___